US07297698B2
2-Cyclopropylquinazoline-6-carboxylic acid
Into 8 ml of 2-propanol and 1 ml of water were dissolved 210 mg of 2-cyclopropylquinazoline-6-carbonitrile and 450 mg of potassium hydroxide, followed by heating under refluxing overnight. Hydrochloric acid was added thereto and the solvent was removed by evaporation to obtain the title compound as a crude carboxylic acid.

reactant | 2-propanol | 8 ml | CC(C)O | C3H8O
reactant | 2-cyclopropylquinazoline-6-carbonitrile | 210 mg | C1(CC1)C1=NC2=CC=C(C=C2C=N1)C#N | C12H9N3
reactant | potassium hydroxide | 450 mg | [OH-].[K+]
reactant | Hydrochloric acid | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 2-Cyclopropylquinazoline-6-carboxylic acid | C1(CC1)C1=NC2=CC=C(C=C2C=N1)C(=O)O | C12H10N2O2
